US04521535
14.8 g. of 5-(4-chlorophenyl)-3-oxo-4-pentenoic acid methyl ester were dissolved in 100 ml. of benzene and treated with N,N-dimethylformamide dimethylacetal. The red-brown colored solution was stirred at 60° C. for 30 minutes, solvent and excess reagent were removed and there was obtained 5-(4-chlorophenyl)-2-(dimethylaminomethylene)-3-oxo-4-pentenoic acid methyl ester in the form of a red-brown oil which was further processed in this form.

reactant | 5-(4-chlorophenyl)-3-oxo-4-pentenoic acid methyl ester | COC(CC(C=CC1=CC=C(C=C1)Cl)=O)=O | C12H11ClO3
reactant | N,N-dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-(4-chlorophenyl)-2-(dimethylaminomethylene)-3-oxo-4-pentenoic acid methyl ester | COC(C(C(C=CC1=CC=C(C=C1)Cl)=O)=CN(C)C)=O | C15H16ClNO3
